US07214802B2
To 1 mL of 20% HNO3 was added 28 mg of HNO2. This mixture was then added to 3-[2-mercapto-4-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-imidazol-1-yl]-4-methyl-benzoic acid methyl ester (280 mg; 0.69 mmol) suspended in 5 mL of rapidly stirring HOAc over 15 min. After stirring an additional 5 min, the solution was poured into ice-cold water. The pH was adjusted to about 7 with NaHCO3, and the mixture was extracted with EtOAc. The extract was washed once with brine, dried with Na2SO4, filtered, and concentrated. The resulting residue was chromatographed (5–60% EtOAc in hexanes) to provide 210 mg (0.56 mmol; 82%) of 4-methyl-3-[4-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester. ESI MS m/z 373 [C22H20N4O2+H]+.

reactant | HNO3 | 1 mL | [N+](=O)(O)[O-] | HNO3
reactant | HNO2 | 28 mg | [NH+](=O)[O-] | HNO2
reactant | 3-[2-mercapto-4-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-imidazol-1-yl]-4-methyl-benzoic acid methyl ester | 0.69 mmol, 280 mg | COC(C1=CC(=C(C=C1)C)N1C(=NC(=C1)C=1C=NN(C1C)C1=CC=CC=C1)S)=O | C22H20N4O2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HOAc | CC(=O)O | C2H4O2
product | 4-methyl-3-[4-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester | 0.56 mmol, 210 mg, 82% | COC(C1=CC(=C(C=C1)C)N1C=NC(=C1)C=1C=NN(C1C)C1=CC=CC=C1)=O | C22H20N4O2
